US05536701
5-Methoxy-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine(Compound No. 5, 5.0 g, 0.0182 mole) and phosphorus oxybromide (5.7 g, 0.02 mole) were refluxed under N2 in toluene (100 mL) for 3.5 hours. The mixture was poured into ethyl acetate and extracted 2×200 mL with water. The organic layer was then extracted with saturated sodium bicarbonate, brine, dried (MgSO4), filtered and evaporated in vacuo to give a crude oil. The oil was purified by chromatography on silica gel to give 5-bromo-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5yl]oxy]pyridazine (2.75 g, 47% yield) as a brown solid which was used directly in the following step.

reactant | 5-Methoxy-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | 0.0182 mole, 5.0 g | COC=1C=C(N=NC1)OC1=CC(=NN1C)C(F)(F)F | C10H9F3N4O2
reactant | phosphorus oxybromide | 0.02 mole, 5.7 g | P(=O)(Br)(Br)Br | Br3OP
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5yl]oxy]pyridazine | 2.75 g, 47% yield | BrC=1C=C(N=NC1)OC1=CC(=NN1C)C(F)(F)F | C9H6BrF3N4O
